US05025025
A solution of 1.4 g of ethyl 8-(p-chlorophenyl-sulfonamido)-2-[5-(3-pyridyl)-pentyl]-2-(ethoxycarbonyl)-octanoate in 50 mL of 6N HCl and 10 mL of acetic acid is heated to reflux for 23 hours after which time it is evaporated to give an oil. This is treated with water, the solution is neutralized with solid sodium bicarbonate to a pH of 6.4 and extracted with ethyl acetate. The ethyl acetate extract is dried over magnesium sulfate, filtered and concentrated to give crude product which is first purified by column chromatography over silica gel using ethyl acetate as eluent, and then further purified by preparative TLC chromatography using ethyl acetate, acetic acid (99.5:0.5) as eluent to give 8-(p-chlorophenylsulfonamido)-2-[5-(3-pyridyl)pentyl]-octanoic acid as an oil, NMR (CDCl3): delta 7.77 (d,2H), 7.4 (d,2H), 2.85 (t,2H), 2.55 (t,2H).

reactant | ethyl 8-(p-chlorophenyl-sulfonamido)-2-[5-(3-pyridyl)-pentyl]-2-(ethoxycarbonyl)-octanoate | 1.4 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCC(C(=O)OCC)(C(=O)OCC)CCCCCC=1C=NC=CC1 | C29H41ClN2O6S
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 6N, 50 mL | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 8-(p-chlorophenylsulfonamido)-2-[5-(3-pyridyl)pentyl]-octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCCCC(C(=O)O)CCCCCC=1C=NC=CC1 | C24H33ClN2O4S
